US06344455B1
Sodium metal (27.6 mmol, 0.63 g) was added to a solution of 3-morpholinopropan-1-ol (22.0 mmol, 3.20 g) in THF (60 mL) under N2. The resulting suspension was stirred at 20° C. for 2 hours and then cannulated into a solution of 4-[(3-bromophenyl)amino]-7-fluoro-6-nitro-quinazoline, J. Med Chem., 1996(39):918) (2.0 g, 5.51 mmol) in THF (50 mL) under N2. The solution was then heated at reflux for 24 hours before being diluted with water and extracted with EtOAc. The combined organic extracts were dried over anhydrous Na2SO4, concentrated under reduced pressure and chromatographed on alumina eluting with EtOAc/hexane (1:1) to MeOH/CH2Cl2/EtOAc (2:3:5) to give 4-[(3-bromophenyl)amino]-7-[(3-morpholino)propyloxy]-6-nitroquinazoline (1.75 g, 65%) as a yellow powder, mp (MeOH) 216-220° C.

reactant | Sodium | 27.6 mmol, 0.63 g | [Na] | Na
reactant | 3-morpholinopropan-1-ol | 22.0 mmol, 3.20 g | O1CCN(CC1)CCCO | C7H15NO2
reactant | 4-[(3-bromophenyl)amino]-7-fluoro-6-nitro-quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C14H8BrFN4O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[(3-bromophenyl)amino]-7-[(3-morpholino)propyloxy]-6-nitroquinazoline | 1.75 g, 65% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCCN1CCOCC1 | C21H22BrN5O4
